US05409943
(a) Ethyl 4-fluorophenylacetimidate hydrochloride
A solution of 4-fluorophenylacetonitrile (50 g, 0.37 mol) in absolute ethanol (300 ml) was treated with dry HCl gas with ice cooling for 1 hour. The solvent was evaporated in vacuo, and the residual oil triturated with ether. The solid was filtered off, washed with ether and dried (67 g, 83%), then used in subsequent steps without further purification.

reactant | 4-fluorophenylacetonitrile | 0.37 mol, 50 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | HCl | Cl | ClH
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | Ethyl 4-fluorophenylacetimidate hydrochloride | Cl.FC1=CC=C(C=C1)CC(OCC)=N | InChI=1S/C10H12FNO.ClH/c1-2-13-10(12)7-8-3-5-9(11)6-4-8;/h3-6,12H,2,7H2,1H3;1H
